US08278343B2
Preparation 72: 3-(4′-Fluoro-biphenyl-4-yloxymethyl)-1-(3-methoxy-phenylcarbamoyl)pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation using 3-methoxy phenyl isocyanate and 3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 65) to afford a racemate as a colourless liquid (230 mg, 80%)

reactant | 3-methoxy phenyl isocyanate | COC=1C=C(C=CC1)N=C=O | C8H7NO2
reactant | 3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CNCC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C20H22FNO3
product | 3-(4′-Fluoro-biphenyl-4-yloxymethyl)-1-(3-methoxy-phenylcarbamoyl)pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(NC1=CC(=CC=C1)OC)=O)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C28H29FN2O5
